US09120776B2
To a solution of 9-ethyl-9H-carbazol-3-amine (4.21 g, 20 mmol) in THF (40 mL) was added 3-methylglutaric anhydride (2.56 g, 20.00 mmol), and the mixture was stirred at 90° C. for 4 hr. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried, and the solvent was evaporated under reduced pressure to give 5-(9-ethyl-9H-carbazol-3-ylamino)-3-methyl-5-oxopentanoic acid (6.23 g, 18.41 mmol, 92%) as a white powder.

reactant | 9-ethyl-9H-carbazol-3-amine | 20 mmol, 4.21 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
reactant | 3-methylglutaric anhydride | 20.00 mmol, 2.56 g | CC1CC(=O)OC(C1)=O | C6H8O3
reactant | water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(9-ethyl-9H-carbazol-3-ylamino)-3-methyl-5-oxopentanoic acid | 18.41 mmol, 6.23 g, 92% | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(CC(CC(=O)O)C)=O | C20H22N2O3
